US04803200
β-[[3-(2-Methylpropoxy)propyl]amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (91.96 g, 0.10 mole) and 3-isobutoxy-1-propylamine (3.93 g, 0.030 mole) was heated at 140° C. for 5 hrs. After standing at ambient temperature for 18 hrs the mixture was dissolved in acetone (20 ml) and the solution poured into water (120 ml). A solid formed rapidly which was collected by filtration and dried under ambient conditions to obtain 2.89 g (88%) of the desired product. Recrystallization from tolueneisooctone gave 2.44 g of an off-white solid, m.p. 90°-92° C.

reactant | trans-stilbene oxide | 0.10 mole, 91.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 3-isobutoxy-1-propylamine | 0.030 mole, 3.93 g | C(C(C)C)OCCCN | C7H17NO
reactant | water | 120 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | β-[[3-(2-Methylpropoxy)propyl]amino]-α-phenylbenzeneethanol | 2.89 g, 88% | CC(COCCCNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1)C | C21H29NO2
